US04816452
a. Benzhydryl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(1-methoxycarbonylcyclohexyloxyimino)acetate
Benzhydryl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(hydroxyimino)acetate (2.0 g) was treated with methyl 1-bromocyclohexane carboxylate as described in Example 5a to give the title compound (1.7 g, 69%) as a white solid, m.p. 180°-182° C. (ethyl acetate/hexane). [Found: C: 73.73; H: 5.60; N: 5.69. C45H41N3O5S requires C: 73.45; H: 5.62; N: 5.71%] νmax (KBr) 3406, 2945, 1751, and 1528cm-1, δH (CDCl3) 1.36 (5H, m), 1.72 (3H, m), 2.00 (2H, m), 3.69 (3H, s), 6.46 (1H, s), 6.71 (1H, s), 7.15 (1H, s), 7.29 and 7.34 (25H, m).

reactant | Benzhydryl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(hydroxyimino)acetate | 2.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=N/O | C37H29N3O3S
reactant | methyl 1-bromocyclohexane carboxylate | BrC1(CCCCC1)C(=O)OC | C8H13BrO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | Benzhydryl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(1-methoxycarbonylcyclohexyloxyimino)acetate | 1.7 g, 69% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=N/OC1(CCCCC1)C(=O)OC | C45H41N3O5S
